US03989824
Bis(p-chlorophenyl)methylphosphine
To 12.6 g. of magnesium turnings was gradually added a solution containing 96 g. (0.50 mole) of p-chlorobromobenzene and 1.80 cc. tetrahydrofuran. The reaction mixture was stirred and maintained under a nitrogen atmosphere during the addition, following which the contents of the vessel were heated to reflux temperature for two hours. When the reaction mixture had cooled, a solution of methyldichlorophosphine (29.3 g., 0.25 mole) in 25 cc. tetrahydrofuran was gradually added. Following completion of this addition the reaction mixture was heated to reflux temperature for two hours. When the mixture had cooled it was slowly poured into 500 cc. of cold water and then acidified to a pH of 5 using aqueous hydrochloric acid. The resultant aqueous solution was extracted using chloroform. The organic layer was then dried over anhydrous magnesium sulfate and the chloroform removed under reduced pressure. The residue remaining followng removal of the chloroform weighed 64 g. and was distilled, the fraction boiling at between 155 and 160 under a pressure of 0.5 mm Hg being collected. This distillate converted to a white solid upon cooling. The solid material weighed 34 g. and exhibited the following analysis:

reactant | magnesium | [Mg] | Mg
reactant | p-chlorobromobenzene | 0.50 mole | ClC1=CC=C(C=C1)Br | C6H4BrCl
reactant | methyldichlorophosphine | 0.25 mole, 29.3 g | CP(Cl)Cl | CH3Cl2P
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Bis(p-chlorophenyl)methylphosphine | ClC1=CC=C(C=C1)C(C1=CC=C(C=C1)Cl)P | C13H11Cl2P
